US07825253B2
{5-[(4-Fluoro-phenyl)-imino-methyl]-quinolin-2-yl}-(2-methoxy-benzyl)-amine
To a cooled (ice bath) and stirred suspension of 2-(2-methoxy-benzylamino)-quinoline-5-carbonitrile (289 mg, 1.0 mmol) in diethylether (3 ml) and THF (1 ml) was added drop wise a 1M solution of 4-fluorophenyl-magnesium bromide (4 ml, 4.0 mmol), the reaction mixture was heated under reflux conditions for 24 h and poured into ice-water (15 ml). 2N HCl (5 ml) was added, the mixture was stirred at room temperature for 10 min, 3 N NaOH (5 ml) was added and the mixture was extracted with ethyl acetate (2×40 ml). The combined organic layers were washed with brine (2×20 ml), dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (ethyl acetate/heptane) on silica gel and crystallization (dichloromethane/hexane) to yield the title compound as white solid (159 mg, 41%).

reactant | 2-(2-methoxy-benzylamino)-quinoline-5-carbonitrile | 1.0 mmol, 289 mg | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)C#N)C=CC=C1 | C18H15N3O
reactant | 4-fluorophenyl-magnesium bromide | 4.0 mmol, 4 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | HCl | 2N, 5 ml | Cl | ClH
reactant | NaOH | 3 N, 5 ml | [OH-].[Na+]
solvent | diethylether | 3 ml | C(C)OCC | C4H10O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | {5-[(4-Fluoro-phenyl)-imino-methyl]-quinolin-2-yl}-(2-methoxy-benzyl)-amine | 159 mg, 41% | FC1=CC=C(C=C1)C(C1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC)=N | C24H20FN3O
